US08859588B2
3,4-Difluoro-N-[2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-benzenesulfonamide
The title compound was synthesized substantially in the same manner as Example 3 by coupling of 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine (0.025 g, 0.096 mmol) with 3,4-difluorobenzenesulfonyl chloride (0.061 g, 0.288 mmol) in dichloromethane (3 mL) and pyridine (0.5 mL) to obtain 0.015 g (36%) of the title compound.

reactant | 2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-ylamine | 0.096 mmol, 0.025 g | CC1=NC(=CC=C1N)N1C[C@H](CC1)N1[C@H](CCC1)C | C15H24N4
reactant | 3,4-difluorobenzenesulfonyl chloride | 0.288 mmol, 0.061 g | FC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 3,4-Difluoro-N-[2-methyl-6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-benzenesulfonamide | 0.015 g, 36% | FC=1C=C(C=CC1F)S(=O)(=O)NC=1C(=NC(=CC1)N1C[C@H](CC1)N1[C@H](CCC1)C)C | C21H26F2N4O2S
